US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-chlorobenzenesulfonylamino)hexanoic acid (3.024 g) and methyl 4-aminophenylpropionate (1.86 g) were condensed in dichloromethane (70 ml) in the presence of N,N'-dicyclohexylcarbodiimide (2.44 g). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from toluene to obtain (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)hexanamide (3.28 g).

reactant | (S)-2-(4-chlorobenzenesulfonylamino)hexanoic acid | 3.024 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CCCC | C12H16ClNO4S
reactant | methyl 4-aminophenylpropionate | 1.86 g | NC1=CC=C(C=C1)C(C(=O)OC)C | C10H13NO2
reactant | N,N'-dicyclohexylcarbodiimide | 2.44 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)hexanamide | 3.28 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC=C(C=C1)CCC(=O)OC)CCCC | C22H27ClN2O5S
